US05968967
1-(4-amidinophenyl)-3-(4-t-butylphenyl)-4-([4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one hydrochloride (Compound No. 28)
A mixture of 100 mg of 1-(4-amidinophenyl)-3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one, 0.36 ml of 1N aqueous sodium hydroxide and 0.72 ml of ethanol was stirred at room temperature for 1 hour, and the reaction solution was adjusted to pH 3 with dilute hydrochloric acid. The solvent was removed by evaporation under reduced pressure. The resulting residue was recrystallized in water to give 70.7 mg of the title compound as colorless crystals.

reactant | 1-(4-amidinophenyl)-3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one | 100 mg | C(N)(=N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)N1CCC(CC1)OCC(=O)OCC)C1=CC=C(C=C1)C(C)(C)C)C | C31H39N5O5
reactant | sodium hydroxide | 1N, 0.36 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 0.72 ml | C(C)O | C2H6O
product | 1-(4-amidinophenyl)-3-(4-t-butylphenyl)-4-([4-(carboxymethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one hydrochloride | 70.7 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)N1CCC(CC1)OCC(=O)O)C1=CC=C(C=C1)C(C)(C)C)C | InChI=1S/C29H35N5O5.ClH/c1-29(2,3)20-9-5-18(6-10-20)25-24(27(37)33-15-13-22(14-16-33)39-17-23(35)36)28(38)34(32(25)4)21-11-7-19(8-12-21)26(30)31;/h5-12,22H,13-17H2,1-4H3,(H3,30,31)(H,35,36);1H
